.subckt ACS71240 IP+ IP- VCC Viout FAULT DUT_GND
Rp IP+ IP- 1.2m
B§OutputStage N002 DUT_GND V=if({polarity}==2,if({VCC_typ}==5,((V(IP+)-V(IP-))/1.2m*{sensitivity})+2.5,((V(IP+)-V(IP-))/1.2m*{sensitivity})+1.65),if({VCC_typ}==5,((V(IP+)-V(IP-))/1.2m*{sensitivity})+0.5,((V(IP+)-V(IP-))/1.2m*{sensitivity})+0.33))
M2 FAULT N005 DUT_GND N006 NMOS l=1u w=84u
B§Compare1 N004 DUT_GND V=if(I(Rp)<=(IRpMAX), V(VCC),0)
A1 N004 DUT_GND 0 0 0 0 Q 0 SRFLOP Vhigh=3.3
B§Set_Delay N005 DUT_GND V=delay(V(Q), 1.5u)
B§VSat_High N001 DUT_GND V=V(VCC)-0.3
XBuffer N002 Viout N001 N003 Viout level.2 Avol=1Meg GBW=120k Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
B§ICC DUT_GND VCC I=if({VCC_typ}==5, 10mA, 7.5mA)
B§VSat_Low N003 DUT_GND V=300mV
.model NMOS NMOS
.model PMOS PMOS
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS71240
.end
